US07902375B2
Step 3: 2-(5-Methyl-[1,3,4]oxadiazol-2-yl)-ethylamine
TFA (1 ml) is added to a stirred solution of [2-(5-methyl-[1,3,4]oxadiazol-2-yl)-ethyl]-carbamic acid tert-butyl ester (0.077 g, 0.34 mmol) in DCM (5 ml). After 1 hour at room temperature the solvents are removed. The residue is dissolved in DCM and washed with 4M aqueous NaOH solution. The organic extract is separated, dried (MgSO4) and the solvent removed to give the titled compound.

reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | [2-(5-methyl-[1,3,4]oxadiazol-2-yl)-ethyl]-carbamic acid tert-butyl ester | 0.34 mmol, 0.077 g | C(C)(C)(C)OC(NCCC=1OC(=NN1)C)=O | C10H17N3O3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(5-Methyl-[1,3,4]oxadiazol-2-yl)-ethylamine | CC1=NN=C(O1)CCN | C5H9N3O
